* Z:\mnt\design.r\spice\examples\1929.asc
M§Q1 IN N003 N005 N005 FDS6680A
C1 N004 N005 .47µ
M§Q2 N005 N009 0 0 FDS6680A
D1 N001 N004 1N5818
L1 N005 N006 1µ
R1 N006 OUT 2m
D2 0 N005 1N5818
M§Q3 IN N013 N015 N015 FDS6680A
C2 N014 N015 .47µ
M§Q4 N015 N019 0 0 FDS6680A
L2 N015 N016 1µ
D3 0 N015 1N5818
C3 OUT 0 1000µ x2 Rser=10m
R2 N017 0 16K
R3 N018 N017 16K
C4 N012 0 100p
C5 N011 0 1000p
R4 N012 N011 10K
C6 N010 0 250p
D4 N001 N014 1N5818
V1 IN 0 6
R5 N016 OUT 2m
XU1 N010 N006 OUT N017 N008 N007 MP_01 N012 0 N018 0 OUT OUT N016 0 N013 N015 N014 N019 0 N001 N002 N009 IN N004 N005 N003 LTC1929
C7 N001 0 10µ
Rload OUT 0 .5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
.lib LTC1929.sub
.backanno
.end
